US07517899B2
2-(6-Fluoro-2-nitro-phenyl)-malonic acid dimethyl ester (12 g, 44 mmol) in a 6N aqueous solution of hydrochloric acid (200 mL) was heated at reflux for 4 hours. The mixture was cooled, diluted with 250 mL of water and extracted with diethyl ether. The ethereal layer was dried over anhydrous magnesium sulfate, and concentrated in vacuo. Crystallization from 5% ethyl acetate/hexane gave 7.6 g of (6-fluoro-2-nitro-phenyl)-acetic acid (54%). MS (ESI) m/z 200 ([M+H]+).

reactant | 2-(6-Fluoro-2-nitro-phenyl)-malonic acid dimethyl ester | 44 mmol, 12 g | COC(C(C(=O)OC)C1=C(C=CC=C1F)[N+](=O)[O-])=O | C11H10FNO6
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
product | (6-fluoro-2-nitro-phenyl)-acetic acid | 7.6 g, 54% | FC1=CC=CC(=C1CC(=O)O)[N+](=O)[O-] | C8H6FNO4
